US06077812
Step C 3-(6-amino4-chloro-2-fluoro-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione
To stirred solution of 200 grams (0.519 mole) of 3-(4-chloro-2,6-difluoro-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione in 1000 mL of dioxane was added 150 mL (1.091 moles) of triethylamine in one portion. Upon completion of addition, the mixture was vigorously stirred and 400 grams (5.189 moles) of ammonium acetate was added in one portion. The reaction mixture was heated to 90° C. where it stirred for two hours. The reaction mixture was allowed to cool to ambient temperature where it stirred for about 18 hours. The resulting suspension was collected by filtration and washed with dioxane. The filtrate was concentrated under reduced pressure to yield a viscous dark oil. The oil was poured into ice-water. The resulting solid was collected by filtration and washed with water. The solid was dried under reduced pressure and then at ambient temperature for about 18 hours, yielding 195.1 grams of title compound. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(4-chloro-2,6-difluoro-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 0.519 mole, 200 grams | ClC1=CC(=C(C(=C1[N+](=O)[O-])F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H5ClF5N3O4
reactant | triethylamine | 1.091 moles, 150 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium acetate | 5.189 moles, 400 grams | C(C)(=O)[O-].[NH4+]
solvent | dioxane | 1000 mL | O1CCOCC1 | C4H8O2
product | 3-(6-amino4-chloro-2-fluoro-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 195.1 grams | NC1=C(C(=CC(=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)[N+](=O)[O-] | C12H7ClF4N4O4
